US05344843
A suspension of 4-[3-(2-naphthalenyloxy)-1-propynyl]-alpha-oxobenzeneacetic acid (0.13 g) in dichloromethane (19 mL) was hydrogenated over 10 % palladium on carbon (0.016 g) at atmospheric pressure. The resulting mixture was filtered twice through a pad of celite to remove insoluble materials, then the tiltrate was evaporated and the residue was crystallized from ethyl acetate-hexane to afford 0.083 g of 4-[3-(2-naphthalenyloxy) propyl]-alpha-oxobenzeneacetic acid, mp 151°-154° C.

reactant | 4-[3-(2-naphthalenyloxy)-1-propynyl]-alpha-oxobenzeneacetic acid | 0.13 g | C1=C(C=CC2=CC=CC=C12)OCC#CC1=CC=C(C=C1)C(C(=O)O)=O | C21H14O4
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
catalyst | palladium on carbon | 0.016 g | [Pd] | Pd
product | 4-[3-(2-naphthalenyloxy) propyl]-alpha-oxobenzeneacetic acid | 0.083 g | C1=C(C=CC2=CC=CC=C12)OCCCC1=CC=C(C=C1)C(C(=O)O)=O | C21H18O4
